US07834013B2
{4-(1-Methylethyl)-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methanol (XI-6a)
Ethyl 4-(1-methylethyl)-2-[4-(trifluoromethyl)phenyl]-1,3-thiazole-5-carboxylate (XI-5a) (2.68 g, 7.80 mmol) was dissolved in THF (8 mL) and cooled to 0° C. under nitrogen. Lithium aluminum hydride (1.0M solution in THF, 8.00 mL, 8.00 mmol) was added and the mixture was stirred at 0° C. for 60 min. Water (0.3 mL) was added, followed by 15% aqueous sodium hydroxide (0.3 mL), then water (0.9 mL). The resulting mixture was filtered and the filtrate was concentrated to provide the title compound (2.13 g, 91%) as a yellow solid. 1H NMR (400 MHz, CDCl3) δ 8.03 (d, J=8.3 Hz, 2H), 7.65 (d, J=8.3 Hz, 2H), 4.86 (d, J=5.2 Hz, 2H), 3.14 (qu, J=6.8 Hz, 1H), 1.33 (d, J=6.8 Hz, 6H).

reactant | Ethyl 4-(1-methylethyl)-2-[4-(trifluoromethyl)phenyl]-1,3-thiazole-5-carboxylate | 7.80 mmol, 2.68 g | CC(C)C=1N=C(SC1C(=O)OCC)C1=CC=C(C=C1)C(F)(F)F | C16H16F3NO2S
reactant | Lithium aluminum hydride | 8.00 mmol, 1.0M, 8.00 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 0.3 mL | O | H2O
reactant | sodium hydroxide | 0.3 mL | [OH-].[Na+]
reactant | water | 0.9 mL | O | H2O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | {4-(1-Methylethyl)-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methanol | 2.13 g, 91% | CC(C)C=1N=C(SC1CO)C1=CC=C(C=C1)C(F)(F)F | C14H14F3NOS
